US06809094B2
5-BROMO-3H-BENZOOXAZOLE-2-THIONE
Potassium ethyl xanthate (416 mg, 2.60 mmol) was added to a solution of 2-amino-4-bromophenol (244 mg, 1.30 mmol) in EtOH (3.24 mL). The reaction mixture was heated at reflux for 4 h. Upon cooling to RT the mixture was concentrated and the resulting residue was dissolved in water. Acetic acid was added until pH=5 and a white solid precipitated from the solution. The solid was filtered, washed with water and dried to afford 270 mg (90%) of a tan powder which was used without further purification: 1H NMR (d6-DMSO, 400 MHz) δ 14.02 (s, 1H), 7.47-7.38 (m, 3H); 13C (d6-DMSO, 400 MHz) δ 181.4, 148.1, 133.7, 127.1, 117.8, 118.8, 112.2; MS (Cl) m/z 229.8 (M−1); HPLC retention time=4.34 min.

reactant | Potassium ethyl xanthate | 2.60 mmol, 416 mg | O(C(=S)[S-])CC.[K+]
reactant | 2-amino-4-bromophenol | 1.30 mmol, 244 mg | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
solvent | EtOH | 3.24 mL | CCO | C2H6O
product | 5-BROMO-3H-BENZOOXAZOLE-2-THIONE | 270 mg, 90% | BrC=1C=CC2=C(NC(O2)=S)C1 | C7H4BrNOS
